US04339443
Monosodium monomethyl benzoylphosphonate
Dimethyl benzoylphosphonate (12.8 g, 0.06 mol) and sodium iodide (9.0 g, 0.06 mol) were dissolved in ethyl methyl ketone (160 ml) and the solution stirred and refluxed for 16 hours. There was evidence of a precipitation after about 10 minutes refluxing.

reactant | Dimethyl benzoylphosphonate | 0.06 mol, 12.8 g | C(C1=CC=CC=C1)(=O)P(OC)(OC)=O | C9H11O4P
reactant | sodium iodide | 0.06 mol, 9.0 g | [I-].[Na+]
solvent | ethyl methyl ketone | 160 ml | CC(=O)CC | C4H8O
product | Monosodium monomethyl benzoylphosphonate | C(C1=CC=CC=C1)(=O)P(OC)([O-])=O.[Na+] | InChI=1S/C8H9O4P.Na/c1-12-13(10,11)8(9)7-5-3-2-4-6-7;/h2-6H,1H3,(H,10,11);/q;+1/p-1
